Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Demerol
 
Attending: ___.
 
Chief Complaint:
left lower leg swelling, pain, and tenderness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ yo male with a PMH significant for HIV (last CD4 
583, HIV VL 87 - ___ and substance abuse who presented with 
LLE redness and swelling for the last week. Reports that 1 week 
ago, he noticed 2 mosquito bites on the lateral aspect and 1 
bite on the medial aspect of his left lower leg. These areas 
were pruritic and drained yellow pus-like material. Reports that 
his entire left lower leg beginning at the knee down to the toes 
became very swollen, tender, red, and hot to the touch. He 
covered the area with bandages and noticed several blister-like 
lesions along the perimeter of where the bandage was previously 
placed. Patient reports that he has not taken his 
antiretrovirals in the last week due to a relapse on crystal 
meth (was previously abstinent for ___ months). Denies any 
fever, chills, nausea, vomiting, diarrhea.
.
In the ED, blood cultures were drawn and he was given 1 g 
Vancomycin IV and 1 L NS. Patient received 40 mEq potassium for 
K of 3.2. UA was obtained and found to be negative. Prior to 
transfer T 98, HR 78, BP 99/57, RR 16, O2Sat 98% RA.
.
Upon arrival to the floor, patient is sitting up in bed and 
feeling comfortable. Reports that swelling, erythema, tenderness 
has improved, but worsens when his leg is not elevated. Denies 
any fever, chills, nausea, vomiting, diarrhea.
 
Past Medical History:
1) HIV diagnosed in ___ contracted via homosexual contact (CD4 
583, HIV VL 87 as of ___ on HAART therapy.
2) Hypertension
3) Crystal meth abuse (smokes) with last use ___
4) History of Xanax addiction
5) Attention Deficit Hyperactivity Disorder
6) Parvovirus infection
7) Viral meningitis with diarrhea in ___
8) Cellulitis of the left arm ___
9) Influenza A infection which required hospitalization, 
accompanied by herpes simplex virus infection of the mouth, 
epididymitis in ___
10) Gluteal abscess and abnormal anal Pap smear with internal 
anal warts
11) Depression/SI 
12) lower extremity swelling in ___ requiring hospitalization
 
Social History:
___
Family History:
Patient notes a family history of heart disease.  Unable to 
provide further specifics.
 
Physical Exam:
O: VS: Tm: 98.2, Tc: 95.9, BP: 107/76, P: 80, RR: 18, 99%RA
GEN: NAD, comfortable, pleasant
HEENT: NCAT, PERRLA, EOMI, MMM, oropharynx shows enlarged 
tonsils bilaterally with no exudates or petechia
NECK: Supple, no thyromegaly, no appreciable LAD
PULM: CTAB with no w/r/r
CARD: RRR, with nl S1 S2, no M/R/G
ABD: soft, obese, no visible scars. BS+ in all 4 quadrants, NT, 
ND
EXT: no C/C/E
SKIN: Left lower leg: No diffuse swelling or erythema noted on 
the left lower leg. On the lateral aspect, there are 2 
subcutaneous nodules with mild erythema and induration but with 
no drainage or fluctuance. On the medial aspect, there is 1 
subcutaneous nodule of mild erythema and induration surrounded 
with with two strips of bullae approximately 4 cm x 0.5 cm in 
distribution of prior bandage adhesive.
NEURO: A+O times person, place, time
PSYCH: Mood and affect appropriate 
 
Pertinent Results:
___ 07:15AM BLOOD WBC-10.2 RBC-4.86 Hgb-14.5 Hct-41.3 
MCV-85 MCH-29.8 MCHC-35.1* RDW-12.6 Plt ___
___ 08:39PM BLOOD WBC-8.2# RBC-UNABLE TO  Hgb-17.0 Hct-45.0 
MCV-UNABLE TO  MCH-UNABLE TO  MCHC-37.7* RDW-UNABLE TO  Plt 
___
___ 07:15AM BLOOD Neuts-77.6* Lymphs-16.1* Monos-5.2 
Eos-0.6 Baso-0.5
___ 07:15AM BLOOD Glucose-91 UreaN-14 Creat-1.0 Na-136 
K-3.6 Cl-100 HCO3-29 AnGap-11
___ 08:39PM BLOOD Glucose-96 UreaN-15 Creat-1.2 Na-137 
K-3.2* Cl-97 HCO3-28 AnGap-15
___ 09:05PM BLOOD Lactate-1.2
.
Urine:
___ 01:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
.
Blood Culture (___): Pending
.
No imaging or EKGs were performed.
 
Brief Hospital Course:
___ yo male with HIV (CD4 583, HIV VL 87 as of ___ who 
presented with LLE redness and swelling for one week, since 
improved. Now with 3 subcutaneous nodules and a small area of 
bullae.
.
#. Cellulitis:  Patient has had history of cellulitis in the 
past.  Subcutaneous nodules on lateral and medial aspect of 
patient's left lower leg appeared to be consistent with healing 
insect bites.  These bites were likely secondarily infected due 
to excoriation of the skin.  On presentation, patient was 
afebrile with no leukocytosis.  Pain appeared to be mild and was 
well controlled with tylenol.  Lesions improved with IV 
vancomycin and leg elevation.  Vesicles were located along the 
outline of the bandage, and appeared to be a manifestation of a 
hypersensitivity reaction to the bandages.  Given the patient's 
stable vital signs and benign appearance of the lesions with 
minimal erythema and absence of drainage, patient was discharged 
with doxycycline 100mg PO BID for 7 days.  He was not given 
bactrim due to his allergy to this medication.  He will follow 
up with his primary care physician, ___.
.
#. Substance abuse:  Patient was previously abstinent from 
crystal meth for approximately ___ months prior to relapse last 
week.  Patient reported that he will not use it again, but 
patient did not want to discuss possible triggers.  Reported 
that he has great support at the ___.  Declined social 
work consult.
.
#. HIV:  Patient admitted to non-compliance with HAART regimen 
in last week concurrent with relapse to using crystal meth.  
HAART therapy (atazanavir, emtricitabine-tenofovir, ritonavir) 
was continued during this admission, and patient reports that he 
will continue medications on discharge.  Will follow up closely 
with Dr. ___.
.
#. Hypertension:  Stable.  Patient was unsure of his exact 
medications, and medications were not listed in the ___ EMR.  
PCP could not be reached during this admission.  Patient was 
given hydrochlorothiazide 12.5 mg PO and atenolol 25mg PO during 
this admission, but told at the time of discharge to resume 
anti-hypertensive medications as previously directed prior to 
admission.
 
Medications on Admission:
OUTPATIENT MEDICATIONS: 
*Spoke to ___ Attending.  Patient's medications are not 
listed in ___ EMR.  Unable to reach PCP during this 
admission.
1) Atazanavir 300 mg PO DAILY
2) Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY
3) Ritonavir 100 mg PO DAILY
4) Hydrochlorothiazide 12.5 mg PO DAILY
5) Atenolol 50 mg PO daily
6) Multivitamin 
 
Discharge Medications:
1. Emtricitabine-Tenofovir 200-300 mg Tablet Sig: One (1) Tablet 
PO DAILY (Daily).  
2. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Atazanavir 150 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
5. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Doxycycline Hyclate 100 mg Tablet Sig: One (1) Tablet PO 
twice a day for 7 days.  Disp:*14 Tablet(s)* Refills:*0*
.
Asked patient to follow up with Dr. ___ as an outpatient, and 
to take all medications as previously directed prior to 
discharge.  Unable to verify medications with PCP during this 
hospitalization.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cellulitis of the left lower leg
Hypersensitivity reaction of the left lower leg due to bandages
HIV
Hypertension
History of Drug Abuse

 
Discharge Condition:
Afebrile, Vital signs stable.  Erythema, swelling, pain of left 
lower leg improving.

 
Discharge Instructions:
You were admitted to the hospital with an infection of your left 
lower leg, possibly secondary to an insect bite.  You were given 
IV antibiotics, which improved your the pain, redness, and 
swelling of your leg.  The fluid-filled lesions found on your 
leg are likely a hypersensitivity reaction to your bandages.  
.
We have added the following NEW medications:
- doxycycline 100mg by mouth twice a day for 7 days
Please continue all medications as previously directed prior to 
your hospitalization.  Please verify your medication list with 
Dr. ___.
.
Should you develop worsening redness, swelling, pain, fever, 
chills, diarrhea, please contact your primary care physician or 
go to the Emergency Department.
 
Followup Instructions:
___